US06258775B1
(b) Methyl 3-[3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylcarbonyl)phenyl]acrylate.
In a manner similar to that of Example 1(c) by reaction of 6.54 g (15 mmol) of 3-iodophenyl-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)-methanone with 1.8 ml (19.7 mmol) of methyl acrylate, 6.5 g (100%) of the expected methyl ester are obtained in the form of an orange-coloured oil.

reactant | 3-iodophenyl-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)-methanone | 15 mmol, 6.54 g | IC=1C=C(C=CC1)C(=O)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C | C22H25IO
reactant | methyl acrylate | 19.7 mmol, 1.8 ml | C(C=C)(=O)OC | C4H6O2
product | Methyl 3-[3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylcarbonyl)phenyl]acrylate | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(=O)C=1C=C(C=CC1)C=CC(=O)OC | C26H30O3
